US06667327B2
b) 6-Benzyloxy-N-carbamoylmethyl-nicotinamide
A mixture of 6-benzyloxy-nicotinic acid (500 mg, 2.18 mmol), glycinamide HCI (265 mg, 2.4 mmol), 4-dimethylamino pyridine (133 mg; 1.09 mmol), N-(3-dimethylamino-propyl)-N′-ethylcarbodiimide HCl (460 mg; 2.4 mmol) and methylene chloride (10 ml) was stirred at 0° C. for 1 h then at r.t. overnight. The precipitate was filtered off and washed with methylene chloride and water. The title compound was obtained as a white solid (328 mg; 53%). MS: m/e=286.2 (M+H+).

reactant | 6-benzyloxy-nicotinic acid | 2.18 mmol, 500 mg | C(C1=CC=CC=C1)OC1=NC=C(C(=O)O)C=C1 | C13H11NO3
reactant | glycinamide HCI | 2.4 mmol, 265 mg | Cl.NCC(=O)N
reactant | N-(3-dimethylamino-propyl)-N′-ethylcarbodiimide HCl | 2.4 mmol, 460 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylamino pyridine | 1.09 mmol, 133 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-Benzyloxy-N-carbamoylmethyl-nicotinamide | C(C1=CC=CC=C1)OC1=NC=C(C(=O)NCC(N)=O)C=C1 | C15H15N3O3
